US04052511
Monoethylmethylmalonate [prepared according to the procedure of Organic Syntheses, 37, 34 (1957)](2.92 g.) and L-proline tert.-butyl ester (3.42 g.) are dissolved in dichloromethane (80 ml.). The solution is chilled with stirring in an ice bath. Dicyclohexylcarbodiimide (4.12 g.) is added and the mixture is stirred 15 minutes in the ice bath and 16 hours at room temperature. The precipitate is filtered off and the filtrate concentrated to dryness in vacuo. The residue is dissolved in ethyl acetate and washed with 5% aqueous potassium bisulfate, water, saturated sodium bicarbonate and water. The organic phase is dried over magnesium sulfate and concentrated to dryness in vacuo to obtain 1-(2-ethoxycarbonylpropanoyl)-L-proline tert.-butyl ester, yield 5.9 g.

reactant | Monoethylmethylmalonate | C(C)OC(C(C(=O)[O-])C)=O
reactant | L-proline tert.-butyl ester | 3.42 g | C(C)(C)(C)OC([C@H]1NCCC1)=O | C9H17NO2
reactant | Dicyclohexylcarbodiimide | 4.12 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dichloromethane | 80 ml | ClCCl | CH2Cl2
product | 1-(2-ethoxycarbonylpropanoyl)-L-proline tert.-butyl ester | C(C)(C)(C)OC([C@H]1N(CCC1)C(C(C)C(=O)OCC)=O)=O | C15H25NO5
